US08138205B2
A solution of dimethylamine (1.5 mL, 2M tetrahydrofuran, 3 mmol) was added to a solution of 8-(4-bromobutoxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxyquinolin-2(1H)-one (146 mg, 0.3 mmol) and DMSO (3 mL). After 2.5 h, the reaction was poured into 10% K2CO3 (30 mL) and extracted with dichloromethane (40 mL×2). The combined extracts were dried, filtered, concentrated, and purified by silical gel chromatography (1:0→4:1; dichloromethane:methanol w/1% conc. NH4OH solution) and then reverse-phase HPLC (1:9→1:1; acetonitrile:water) to give 443,5-dichloropyridin-4-ylamino)-8-(4-(dimethylamino)butoxy)-7-methoxyquinolin-2(1H)-one: 1H NMR (400 MHz, DMSO-d6): δ 10.29 (s, 1H), 8.81 (s, 1H), 8.75 (s, 2H), 7.87 (d, 1H), 7.04 (d, 1H), 4.77 (s, 1H), 3.99 (t, 2H), 3.90 (s, 3H), 2.27 (t, 2H), 2.13 (s, 6H), 1.73 (m, 2H), 1.54 (m, 2H); MS (ESI): 451.0.

reactant | dimethylamine | 3 mmol, 2M, 1.5 mL | CNC | C2H7N
reactant | 8-(4-bromobutoxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxyquinolin-2(1H)-one | 0.3 mmol, 146 mg | BrCCCCOC=1C(=CC=C2C(=CC(NC12)=O)NC1=C(C=NC=C1Cl)Cl)OC | C19H18BrCl2N3O3
reactant | K2CO3 | 30 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 8-(4-(dimethylamino)butoxy)-7-methoxyquinolin-2(1H)-one | CN(CCCCOC=1C(=CC=C2C=CC(NC12)=O)OC)C | C16H22N2O3
